US07915443B2
(S)-5-[(3-hydroxyphenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
In a manner similar to that describe in Example 425, a mixture of (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide and 3-hydroxy-1-ethynylbenzene were reacted to give the title compound as an off-white solid (19 mg, 17%).

reactant | (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | BrC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C13H11BrN2O2S
reactant | 3-hydroxy-1-ethynylbenzene | OC=1C=C(C=CC1)C#C | C8H6O
product | (S)-5-[(3-hydroxyphenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 19 mg, 17% | OC=1C=C(C=CC1)C#CC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C21H16N2O3S
